US05459151
4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine
Following the procedure of Nacci et al, Vide Supra, reaction of 4(3-cyclopentyloxy-4-methoxyphenyl)-2,6-piperidinedione (12 mmol, 3.65 g) and lithium aluminum hydride (120 mmol, 4.56 g) in dry THF (240 mL) afforded the title compound as a light yellow waxy solid (2.71 g, 82%) of sufficient purity for subsequent transformations.

reactant | 4(3-cyclopentyloxy-4-methoxyphenyl)-2,6-piperidinedione | 12 mmol, 3.65 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NC(C1)=O)=O | C17H21NO4
reactant | lithium aluminum hydride | 120 mmol, 4.56 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 240 mL | C1CCOC1 | C4H8O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCNCC1 | C17H25NO2
